US05128483
(R)-2-(Hydroxymethyl)-1-pyrrolidinecarboxylic acid, 1,1-dimethylethyl ester
To a solution of 25.0 g of N-α-t-BOC-D-proline in 250 ml of tetrahydrofuran which is cooled to 0° C. is added dropwise 15 ml of 10M borane-methyl sulfide complex. The reaction is kept at around -20° C. during the addition followed by warming to room temperature and then is gently refluxed for one hour. The mixture is cooled to 0° C., 250 ml of methanol is added carefully and the reaction is evaporated in vacuo to give 23.3 g of a colorless oil which crystallizes on standing to a colorless solid, mp 50°-53° C., [α]D26° =+47°±1 (C=1.162%, methylene chloride).

reactant | N-α-t-BOC-D-proline | 25.0 g | CC(C)(C)OC(=O)N1CCC[C@@H]1C(=O)O | C10H17NO4
reactant | methanol | 250 ml | CO | CH4O
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | (R)-2-(Hydroxymethyl)-1-pyrrolidinecarboxylic acid, 1,1-dimethylethyl ester | 23.3 g | OC[C@@H]1N(CCC1)C(=O)OC(C)(C)C | C10H19NO3
